### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Matrix/PosDef): generalize result

### PR DESCRIPTION
**Pull request by themathqueen**
Generalize `(Aᴴ * A).trace = 0` iff `A = 0` to `StarOrderedRing R`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -320,19 +320,26 @@ theorem posSemidef_self_mul_conjTranspose [StarOrderedRing R] (A : Matrix m n R)
...
-  classical
-  simpa [hA.isHermitian.trace_eq_sum_eigenvalues, Finset.sum_eq_zero_iff_of_nonneg
-    (fun _ _ => RCLike.ofReal_nonneg.mpr <| hA.eigenvalues_nonneg _),
-    ← conjTranspose_mul_self_eq_zero, ← hA.isHermitian.eigenvalues_eq_zero_iff, funext_iff] using h
+section trace
+variable {R : Type*} [PartialOrder R] [NonUnitalRing R]
+  [StarRing R] [StarOrderedRing R] [NoZeroDivisors R]
 
-theorem trace_mul_conjTranspose_self_eq_zero_iff {A : Matrix m n 𝕜} :
+theorem trace_conjTranspose_mul_self_eq_zero_iff {A : Matrix m n R} :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:330]: Could probably move these somewhere else since they have nothing to do with `/PosDef` anymore... but not sure where.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:330]: Perhaps near `dotProduct_star_self_eq_zero`?

**Review by eric-wieser — COMMENTED** [review]
Here's a shorter proof of the same thing (with `import Mathlib.LinearAlgebra.Matrix.Vec`):
```lean-4
theorem trace_conjTranspose_mul_self_eq_zero_iff {A : Matrix m n R} :
    (Aᴴ * A).trace = 0 ↔ A = 0 := by
  rw [← star_vec_dotProduct_vec, dotProduct_star_self_eq_zero]
  sorry -- missing trivial lemma
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:330]: It uses `Matrix.trace` though, it would probably increase the import load a bit on `/DotProduct` if we import `/Trace`? Maybe not though. Let me try.

**Comment by themathqueen** [comment]
> Here's a shorter proof of the same thing (with `import Mathlib.LinearAlgebra.Matrix.Vec`):
> 

`Matrix.Vec` increases the import by 28.3%... Revert? Move?

**Comment by themathqueen** [comment]
> > Here's a shorter proof of the same thing (with `import Mathlib.LinearAlgebra.Matrix.Vec`):
> 
> `Matrix.Vec` increases the import by 28.3%... Revert? Move?

Moved it back to `Matrix/PosDef` to avoid the 28% import increase on `Matrix/DotProduct`.

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 2]
```diff
@@ -56,6 +56,9 @@ theorem vec_map (A : Matrix m n R) (f : R → S) : vec (A.map f) = f ∘ vec A :
 theorem vec_zero [Zero R] : vec (0 : Matrix m n R) = 0 :=
   rfl
 
+theorem vec_eq_zero_iff [Zero R] {A : Matrix m n R} : A.vec = 0 ↔ A = 0 := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]:
```suggestion
@[simp]
theorem vec_eq_zero_iff [Zero R] {A : Matrix m n R} : A.vec = 0 ↔ A = 0 := by
```

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 3]
```diff
@@ -320,19 +321,20 @@ theorem posSemidef_self_mul_conjTranspose [StarOrderedRing R] (A : Matrix m n R)
     PosSemidef (A * Aᴴ) := by
   simpa only [conjTranspose_conjTranspose] using posSemidef_conjTranspose_mul_self Aᴴ
 
-theorem trace_conjTranspose_mul_self_eq_zero_iff {A : Matrix m n 𝕜} :
+section trace
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:324]: Let's at least move this to the top of the file to indicate that it doesn't depend on anything else in it.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/PosDef.lean:324]: Oh, I guess you're generalizing in place so maybe no need. Perhaps just leave a "TODO: move to an earlier file" comment instead?

**Review by eric-wieser — APPROVED** [review]
maintainer merge

File: Mathlib/LinearAlgebra/Matrix/Vec.lean [hunk 4]
```diff
@@ -56,6 +56,9 @@ theorem vec_map (A : Matrix m n R) (f : R → S) : vec (A.map f) = f ∘ vec A :
 theorem vec_zero [Zero R] : vec (0 : Matrix m n R) = 0 :=
   rfl
 
+@[simp]
+theorem vec_eq_zero_iff [Zero R] {A : Matrix m n R} : A.vec = 0 ↔ A = 0 := vec_inj (B:=0)
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/Matrix/Vec.lean]:
```suggestion
@[simp]
theorem vec_eq_zero_iff [Zero R] {A : Matrix m n R} : A.vec = 0 ↔ A = 0 := vec_inj (B := 0)
```

**Review by dupuisf — COMMENTED** [review]
bors d+
